US05084461
Dissolve 12,12,12-trifluoro-8-dodecenoic acid (1.39 g, 5.5 mmol) in ethanol (50 mL) and place in a Paar hydrogenation flask. Add 10% palladium/carbon (500 mg). Charge the vessel to 50 psi and shake for 18 hours. Filter through celite and remove the solvent in vacuo to give 12,12,12-trifluorododecanoic acid.

reactant | 12,12,12-trifluoro-8-dodecenoic acid | 5.5 mmol, 1.39 g | FC(CCC=CCCCCCCC(=O)O)(F)F | C12H19F3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | 12,12,12-trifluorododecanoic acid | FC(CCCCCCCCCCC(=O)O)(F)F | C12H21F3O2
